US03975384
5-Cyano-6-methoxy-4-piperazino-2-thiomorpholino-pyrimidine
18 gm (0.067 mol) of 4-chloro-5-cyano-6-methoxy-2-thiomorpholino-pyrimidine (m.p. 218°-219°C) were admixed with 60.3 gm (0.7 mol) of piperazine, and the mixture was heated at 130°C for 3 hours. After cooling, water was added, and the aqueous mixture was extracted with chloroform. The chloroform phase was dried, and the chloroform was removed in vacuo. The residue, the free base reaction product, was dissolved in hot ethanol, and the hydrochloride was precipitated by addition of ethanolic hydrochloric acid, suction-filtered off and washed with ethanol. Yield: 13 gm (54.8% of theory); m.p. 261°C.

reactant | 4-chloro-5-cyano-6-methoxy-2-thiomorpholino-pyrimidine | 0.067 mol, 18 gm | ClC1=NC(=NC(=C1C#N)OC)N1CCSCC1 | C10H11ClN4OS
reactant | piperazine | 0.7 mol, 60.3 gm | N1CCNCC1 | C4H10N2
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 5-Cyano-6-methoxy-4-piperazino-2-thiomorpholino-pyrimidine | C(#N)C=1C(=NC(=NC1OC)N1CCSCC1)N1CCNCC1 | C14H20N6OS
